2131-03-28 06:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   40 yo with metastatic esophageal sq cell carcinoma p/w stridor & fever
   and found to have narrowed vocal cords with narrowed airway to 1-2mm.
   Taken urgently to OR for trach placement.
   24 Hour Events:
   -Got trach in OR
   -Pt did not tolerate propofol for sedation as she dropped her BP
   -Changed sedation to versed and fentanyl
   -Pt dropped oxygen sat to 80%, RR increased to 40s. Put on 100% sats
   increased to mid 90s.  RR normalized.  Dropped BP and started on
   pressors.
   -Emergent bronch done showed patent airway
   -CXR concerning for ARDS and question fluid increased in L lung.  Vent
   setting fio2 50 PEEP 5 PIP 16 TV 300 RR 20
   -Antibiotics coverage broadened an pt has received in last 24 hrs
   levofloxacin, clindamycin, metronidazole, vancomycin, and cefepime.
   -L arm noted to be colder than right arm thought secondary to Bp cuff
   -A line attempted by multiple team members, trying to aoid L arm.
   Ultimately surgery resident placed line in L arm.
   -ABG pending
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin
 1 g IV q12
   Cefipime
 2g IV q8
   Metronidazole
 500IV q8
   Levofloxacin
 750 IV q24
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2131-3-28**] 03:52 AM
   Fentanyl - [**2131-3-28**] 05:11 AM
   Other medications:
   Dexamethasone 4mg PO q8
   Methadone 5-10mg PO BID
   Filgastim 300mg q12
   Lasoprazole 30 po daily
   Heparin sc TID
   Chlorhexidine gluconate oral rinse
   Changes to medical and family history:
   Review of systems: deferred to later in AM due to need for interpreter
   Flowsheet Data as of  [**2131-3-28**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37.4
C (99.3
   HR: 124 (124 - 153) bpm
   BP: 94/60(67) {80/56(61) - 160/89(106)} mmHg
   RR: 21 (21 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    788 mL
                                                                  3,428 mL
   PO:
             TF:
   IVF:
                                                                    788 mL
                                                                  3,328 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,000 mL
   Urine:
   1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    788 mL
                                                                  2,428 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 323 (215 - 419) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 6 L/min
   Physical Examination
   Gen: arousable, can follow non verbal commands (stick out tongue and
   wiggle toes)
   HEENT: moist mm
   Cardiac: tachycardic, no m/r/g
   Pulm: + bs c/w vent and decreased bs in LLL , chest with mild erythema
   in a scoop neck type distribution.  Trach site with sm amount of blood
   surrounding.
   Abd: mild erythema around j tube, slightly tender around j-tube, unable
   to express any discharge, appears to be chronic scaring
   Extremities: radial pulses [**12-29**]+ bilaterally, temperature in both arms
   equal, no UE or LE edema.
   Labs / Radiology
   129 K/uL
   9.3 g/dL
   158 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.9 mEq/L
   10 mg/dL
   101 mEq/L
   131-135 mEq/L
   27.4 to 33 t 23 %
   2.2 K/uL
         [image002.jpg]
                             [**2131-3-28**]  01:05 AM
   WBC
   2.2
   Hct
   27.4
   33
   Plt
   129
   Cr
   0.5
   Glucose
   158
   Other labs: PT / PTT / INR:17.0/26.4/1.5, Differential-Neuts:3.0 %,
   Band:0.0 %, Lymph:94.0 %, Mono:1.0 %, Eos:0.0 %, Ca++:7.2 mg/dL,
   Mg++:1.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   40 yo with metastatic esophageal sq cell carcinoma p/w stridor & fever
   and found to have narrowed vocal cords with narrowed airway to 1-2mm.
   Taken urgently to OR for trach placement with heliox prior.
   Respiratory failure: ? ARDS vs volume overload.  Unsure if it will ever
   be safe to decanulate given stridor and edema.
   -f/u morning ABG for now continue current vent setting, low volume with
   PEEP of 5.  Serial ABGs.
   -Check PF ratio
   -CXR this PM
   -change antibiotics to vancomycin. Cefepime, and clindamycin
   -TEE
   -measure volume status using pulse pressure differential
   -measure svo2 thru A line
   -discuss with thoracics why placed small trach (size 6), can
t  pass
   regular size bronch thru it
   .
   Sepsis/neutropenic fever: will follow MUST criteria. Pt with
   neutropenic fever.  Spiked to 103.
   -follow MAP
   -if get CVL  would only do for 2 days (pending family meeting) will
   check CVP, recheck lHCT and transfuse to > 27 (irradiated), serial
   lactates
   -try to wean levophed then get CTA neck with contrast & abd with
   contrast to look for abscess. Ct chest no contrast.
   -f/u blood cx & urine cx
   -continue filgrastim
   .
   Sinus tachycardia:
   -echo to look for long term damage (cardiomyopathy) secondary to
   tachycardia
   .
   Metastatic esophageal cancer. [**First Name4 (NamePattern1) 4113**] [**Last Name (NamePattern1) 2269**] very committed to pt care
   and excellent advocate is GI MD.
   -goals of care meeting today.  Discuss if should do CVL.  Also discuss
   if ever will be safe  to decanulate
   -continue filgrastim
   -return with interpreter
   .
   h/o hypercalemia: IVF improved.
   -will follow
   .
   Left flank/low back pain likely due to mets: continue lidocaine,
   methadone, tylenol
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2131-3-27**] 09:04 PM
   20 Gauge - [**2131-3-27**] 10:30 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2131-03-29 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   40 yo with metastatic esophageal sq cell carcinoma p/w stridor & fever
   and found to have narrowed vocal cords with narrowed airway to 1-2mm.
   Taken urgently to OR for trach
   placement.
   24 Hour Events:
   - Abx changed to clinda/vanc/cefepime
   - ENT said no steroids (will not stop vocal cords from coapting-likely
   tumor invading nerves)
   - Central line placed CVPs low
   - 2UPRBCs
   - Echo normal
   - Blood cultures pending
   - Unable to wean levo
   - Lactate 0.8, mixed venous O2=81%
   - Family meeting held, aggressive measures for now but open to
   discussion if things go wrong way.
   - Checking [**Last Name (un) 402**] stim
   - Radiation field determined to be likely upper throat and head
   - Thoracics to upsize trach on friday
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2131-3-28**] 01:13 AM
   Levofloxacin - [**2131-3-28**] 04:30 AM
   Vancomycin - [**2131-3-28**] 08:01 PM
   Cefipime - [**2131-3-28**] 11:20 PM
   Clindamycin - [**2131-3-28**] 11:20 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-3-28**] 09:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-3-29**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 96 (64 - 128) bpm
   BP: 108/63(80) {78/42(53) - 156/101(118)} mmHg
   RR: 22 (19 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 55.8 kg
    CVP: 2 (1 - 10)mmHg
   Mixed Venous O2% Sat: 81 - 81
   Total In:
                                                                  6,907 mL
                                                                    709 mL
   PO:
   TF:
   IVF:
                                                                  5,811 mL
                                                                    709 mL
   Blood products:
                                                                    636 mL
   Total out:
                                                                  3,030 mL
                                                                    920 mL
   Urine:
                                                                  3,030 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,877 mL
                                                                   -193 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/34/202/21/1
   Ve: 5.6 L/min
   PaO2 / FiO2: 505
   Physical Examination
   Gen: arousable, can follow verbal commands (stick out tongue and wiggle
   toes)
   HEENT: moist mm
   Cardiac: tachycardic, no m/r/g
   Pulm: + bs c/w vent and decreased bs in LLL , chest with mild erythema
   in a scoop neck type distribution.  Trach site with sm amount of blood
   surrounding.
   Abd: mild erythema around j tube, slightly tender around j-tube, unable
   to express any discharge, appears to be chronic scaring
   Extremities: radial pulses [**12-29**]+ bilaterally, temperature in both arms
   equal, no UE or LE edema.
   Labs / Radiology
   123 K/uL
   11.0 g/dL
   183 mg/dL
   0.4 mg/dL
   21 mEq/L
   3.4 mEq/L
   11 mg/dL
   106 mEq/L
   136 mEq/L
   30.3 %
   0.8 K/uL
        [image002.jpg]
                             [**2131-3-28**]  01:05 AM
                             [**2131-3-28**]  06:13 AM
                             [**2131-3-28**]  09:44 AM
                             [**2131-3-28**]  10:04 AM
                             [**2131-3-29**]  03:08 AM
                             [**2131-3-29**]  04:47 AM
   WBC
   2.2
   0.6
   0.8
   Hct
   27.4
   23.5
   22.6
   30.3
   Plt
   129
   118
   123
   Cr
   0.5
   0.4
   0.4
   TCO2
   26
   25
   Glucose
   158
   130
   183
   Other labs: PT / PTT / INR:16.7/26.4/1.5, Differential-Neuts:28.0 %,
   Band:0.0 %, Lymph:62.0 %, Mono:10.0 %, Eos:0.0 %, Lactic Acid:0.8
   mmol/L, Albumin:2.6 g/dL, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   40 yo with metastatic esophageal sq cell carcinoma p/w stridor & fever
   and found to have narrowed vocal cords with narrowed airway to 1-2mm.
   Taken urgently to OR for trach placement with heliox prior.
   # Sepsis/neutropenic fever:  Patient stable, with CVL and A-Line in
   place.  ANC 235.  Goal MAP is > 65, patient has been at this goal with
   low dose of levophed, unable to completely wean off.  Patient has been
   afebrile for past 24 hours, CVP has been between [**2-1**], with goal > 10.
   Unclear etiology of sepsis, as patient
s CX have shown NGTD.  Patient
   pan CT was unremakable in Abdomen/Pelvis for abcess, but patient with
   calcified CB.  CT neck did show a retropharyngeal developing phlegmon.
   There is concern that this may develop into an abcess as patient
   graulocyte count increases.  Patient will need further monitoring, and
   likely repeat CT neck in a few days.
   -follow MAP, goal > 65; CVP > 10, bolus as needed
   -Wean levophed as tolerated.
   -f/u cultures
   -continue filgrastim
   # Respiratory failure:  Patient with trach in place, has maintained .
   Unsure if it will ever be safe to decanulate given stridor and edema.
   -f/u morning ABG for now continue current vent setting, low volume with
   PEEP of 5.  Serial ABGs.
   -Check PF ratio
   -CXR this PM
   -change antibiotics to vancomycin. Cefepime, and clindamycin
   -TEE
   -measure volume status using pulse pressure differential
   -measure svo2 thru A line
   -discuss with thoracics why placed small trach (size 6), can
t  pass
   regular size bronch thru it
   Sinus tachycardia:
   -echo to look for long term damage (cardiomyopathy) secondary to
   tachycardia
   Metastatic esophageal cancer. [**First Name4 (NamePattern1) 4113**] [**Last Name (NamePattern1) 2269**] very committed to pt care
   and excellent advocate is GI MD.
   -goals of care meeting today.  Discuss if should do CVL.  Also discuss
   if ever will be safe  to decanulate
   -continue filgrastim
   -return with interpreter
   h/o hypercalemia: IVF improved.
   -will follow
   Left flank/low back pain likely due to mets: continue lidocaine,
   methadone, tylenol
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2131-3-27**] 09:04 PM
   20 Gauge - [**2131-3-28**] 01:15 AM
   Arterial Line - [**2131-3-28**] 05:45 AM
   Multi Lumen - [**2131-3-28**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-03-29 11:47:00 Physician Attending Progress Note
Chief Complaint: Resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2131-3-28**] 04:00 PM
   Remains intubated (trach), mechanically ventilated.
   Central line placed, CVP monitored.
   Received 2 U PRBC.
   Weaning vasopressor.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2131-3-28**] 01:13 AM
   Levofloxacin - [**2131-3-28**] 04:30 AM
   Clindamycin - [**2131-3-29**] 08:00 AM
   Vancomycin - [**2131-3-29**] 08:30 AM
   Cefipime - [**2131-3-29**] 08:30 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-3-28**] 09:02 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2131-3-29**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 97 (64 - 126) bpm
   BP: 93/57(72) {78/42(53) - 156/101(118)} mmHg
   RR: 20 (19 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 55.8 kg
   CVP: 9 (1 - 10)mmHg
   Mixed Venous O2% Sat: 81 - 81
                                Total In:
                                                                  6,907 mL
                                                                  1,628 mL
   PO:
                                TF:
   IVF:
                                                                  5,811 mL
                                                                  1,628 mL
   Blood products:
                                                                    636 mL
   Total out:
                                                                  3,030 mL
                                                                  1,200 mL
   Urine:
                                                                  3,030 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,877 mL
                                                                    428 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/34/202/21/1
   Ve: 6 L/min
   PaO2 / FiO2: 505
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.0 g/dL
   123 K/uL
   183 mg/dL
   0.4 mg/dL
   21 mEq/L
   3.4 mEq/L
   11 mg/dL
   106 mEq/L
   136 mEq/L
   30.3 %
   0.8 K/uL
        [image002.jpg]
                             [**2131-3-28**]  01:05 AM
                             [**2131-3-28**]  06:13 AM
                             [**2131-3-28**]  09:44 AM
                             [**2131-3-28**]  10:04 AM
                             [**2131-3-29**]  03:08 AM
                             [**2131-3-29**]  04:47 AM
   WBC
   2.2
   0.6
   0.8
   Hct
   27.4
   23.5
   22.6
   30.3
   Plt
   129
   118
   123
   Cr
   0.5
   0.4
   0.4
   TCO2
   26
   25
   Glucose
   158
   130
   183
   Other labs: PT / PTT / INR:16.7/26.4/1.5, Differential-Neuts:28.0 %,
   Band:0.0 %, Lymph:62.0 %, Mono:10.0 %, Eos:0.0 %, Lactic Acid:0.8
   mmol/L, Albumin:2.6 g/dL, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   Respiratory failure (upper airway obstruction), Sepsis
   RESPIRATORY FAILURE -- mutifactorial; urgent trach for upper airway
   obstruction and now evidence for interval development of pulmonary
   edema (cardiogenic from volume resussitation vs. non-cardiogenic,
   ARDS).  Plan continue mechanical ventilation, monitor ABG.  Lung
   protective strategy.  Adjust FiO2 to maintain SaO2 >90% or pO2> 60
   mmHg.
   UPPER AIRWAY OBSTRUCTION -- unclear etiology, but concerns include
   laryngospasm, edema secondary to acid reflux, localized abscess, tumor
   (although no abnormalities identified at surgery).
   SEPSIS -- sepsis physiology, unclear etiology.  Concerns include lung
   or new abscess (near trachea).  Continue early goal-directed therapy.
   Central venous access established.  Aim CVP >10
   FLUIDS --  continue resussitation with crystalloid and PRBC, may need
   central line to monitor CVP >10 cmH2O.
   ABD PAIN -- tender G-tube site improved.  Plan monitor serial exam,
   consider ABD CT.
   TACHYCARDIA -- sinus tachycardia; multifactorial including fever, pain,
   anxiety, sepsis, although concern for pericardial disease --> would
   check repeat echo to assess LV function, pericardial space.  Also,
   consider cardiomyopathy due to chronic tachycardia.
   NEUTROPENIA -- empirical antimicrobial coverage while febrile.
   FEVER -- improved.  Empirical antimicrobials.
   ANEMIA -- plan transfuse to >27.  Use irradiated PRBC.
   LLL lung density -- chronic; possible scarring, residual malignancy
   ESOPHOGEAL CA -- metastatic; need to assess upper airway --> CT scan.
   Oncology to F/U, including discussion of direction of future care.
   Family meeting today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2131-3-27**] 09:04 PM
   20 Gauge - [**2131-3-28**] 01:15 AM
   Arterial Line - [**2131-3-28**] 05:45 AM
   Multi Lumen - [**2131-3-28**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2131-03-30 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   40 yo with metastatic esophageal sq cell carcinoma p/w stridor & fever
   and found to have narrowed vocal cords with narrowed airway to 1-2mm.
   Taken urgently to OR for trach placement.
   24 Hour Events:
   -Failed pressure support on FiO2 of 0.3
   -Weaned off levo
   -MAP> 65
   -Required 3L NS Bolus yesterday to maintain CVP
   -Restarted methadone
   -LFTs normal
   -Phos repleated
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2131-3-28**] 01:13 AM
   Levofloxacin - [**2131-3-28**] 04:30 AM
   Vancomycin - [**2131-3-29**] 08:00 PM
   Cefipime - [**2131-3-30**] 12:00 AM
   Clindamycin - [**2131-3-30**] 12:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-3-30**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 107 (96 - 122) bpm
   BP: 92/57(72) {80/49(62) - 109/64(81)} mmHg
   RR: 21 (11 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58 kg (admission): 55.8 kg
    CVP: 254 (1 - 255)mmHg
   Total In:
                                                                  4,333 mL
                                                                    754 mL
   PO:
   TF:
   IVF:
                                                                  4,113 mL
                                                                    754 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                  1,755 mL
   Urine:
                                                                  2,950 mL
                                                                  1,755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,383 mL
                                                                 -1,001 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/36/144/22/0
   Ve: 8 L/min
   PaO2 / FiO2: 480
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   79 K/uL
   9.4 g/dL
   83 mg/dL
   0.3 mg/dL
   22 mEq/L
   3.6 mEq/L
   8 mg/dL
   110 mEq/L
   140 mEq/L
   25.5 %
   1.4 K/uL
        [image002.jpg]
                             [**2131-3-28**]  01:05 AM
                             [**2131-3-28**]  06:13 AM
                             [**2131-3-28**]  09:44 AM
                             [**2131-3-28**]  10:04 AM
                             [**2131-3-29**]  03:08 AM
                             [**2131-3-29**]  04:47 AM
                             [**2131-3-29**]  07:42 PM
                             [**2131-3-30**]  05:14 AM
                             [**2131-3-30**]  05:52 AM
   WBC
   2.2
   0.6
   0.8
   1.4
   Hct
   27.4
   23.5
   22.6
   30.3
   25.5
   Plt
   129
   118
   123
   79
   Cr
   0.5
   0.4
   0.4
   0.3
   0.3
   TCO2
   26
   25
   25
   Glucose
   158
   130
   183
   107
   83
   Other labs: PT / PTT / INR:16.7/26.4/1.5, ALT / AST:[**11-9**], Alk Phos / T
   Bili:56/0.8, Differential-Neuts:28.0 %, Band:0.0 %, Lymph:62.0 %,
   Mono:10.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL,
   LDH:149 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   40 yo with metastatic esophageal sq cell carcinoma p/w stridor & fever
   and found to have narrowed vocal cords with narrowed airway to 1-2mm.
   Taken urgently to OR for trach placement with heliox prior.
   # Sepsis/neutropenic fever:  Patient stable, with CVL and A-Line in
   place.  ANC 235.  Goal MAP is > 65, patient has been at this goal with
   low dose of levophed, unable to completely wean off.  Patient has been
   afebrile for past 24 hours, CVP has been between [**2-1**], with goal > 10.
   Unclear etiology of sepsis, as patient
s CX have shown NGTD.  Patient
   pan CT was unremakable in Abdomen/Pelvis for abcess, but patient with
   calcified CB.  CT neck did show a retropharyngeal developing phlegmon.
   There is concern that this may develop into an abcess as patient
   graulocyte count increases.  Patient will need further monitoring, and
   likely repeat CT neck in a few days.
   -follow MAP, goal > 65; CVP > 10, bolus as needed
   -Wean levophed as tolerated.
   -f/u cultures
   -continue filgrastim
   # Respiratory failure:  Patient with trach in place, has maintained
   good oxygen saturation.  Likely not ARDS.  ENT reevaluated airway and
   given lack of mobility of vocal cords, likely an infilration of cancer
   and thus would not benefit from steroids.  Patient will also need an
   enlarged trach at some point.  For now, given high PO2, can decrease
   FiO2 to 0.3, and treat patient
s Pneumonia with Vanc/Clinda/Cefepime.
   Patient has been overbreathing the ventilator.
   - Continue Antibiotics
   - Decrease FiO2 to 0.3
   - Will ultimately transition to pressure support as patient has
   respiratory drive
   # Anemia:  HCT stable.   Patient has was given 2u PRBCs and responded
   appropriately.
   - Monitor
   Metastatic esophageal cancer.
   - Goal of care at this time is aggressive care of above.
   Left flank/low back pain likely due to mets: continue lidocaine,
   methadone, tylenol
    TITLE:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2131-3-27**] 09:04 PM
   20 Gauge - [**2131-3-28**] 01:15 AM
   Arterial Line - [**2131-3-28**] 05:45 AM
   Multi Lumen - [**2131-3-28**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2131-03-30 11:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Appears much improved today, more comfortable.
   Able to communicate through writing (and interpreter)
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2131-3-28**] 01:13 AM
   Levofloxacin - [**2131-3-28**] 04:30 AM
   Cefipime - [**2131-3-30**] 08:06 AM
   Clindamycin - [**2131-3-30**] 08:06 AM
   Vancomycin - [**2131-3-30**] 08:41 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2131-3-30**] 08:06 AM
   Heparin Sodium (Prophylaxis) - [**2131-3-30**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2131-3-30**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 106 (101 - 122) bpm
   BP: 86/50(65) {80/48(62) - 105/62(78)} mmHg
   RR: 21 (11 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58 kg (admission): 55.8 kg
   CVP: 9 (1 - 255)mmHg
   Total In:
                                                                  4,333 mL
                                                                  2,518 mL
   PO:
   TF:
   IVF:
                                                                  4,113 mL
                                                                  2,218 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                  3,115 mL
   Urine:
                                                                  2,950 mL
                                                                  3,115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,383 mL
                                                                   -597 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 20
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/36/144/22/0
   Ve: 6.3 L/min
   PaO2 / FiO2: 480
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Trach tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   79 K/uL
   83 mg/dL
   0.3 mg/dL
   22 mEq/L
   3.0 mEq/L
   8 mg/dL
   111 mEq/L
   139 mEq/L
   25.5 %
   1.4 K/uL
        [image002.jpg]
                             [**2131-3-28**]  01:05 AM
                             [**2131-3-28**]  06:13 AM
                             [**2131-3-28**]  09:44 AM
                             [**2131-3-28**]  10:04 AM
                             [**2131-3-29**]  03:08 AM
                             [**2131-3-29**]  04:47 AM
                             [**2131-3-29**]  07:42 PM
                             [**2131-3-30**]  05:14 AM
                             [**2131-3-30**]  05:52 AM
   WBC
   2.2
   0.6
   0.8
   1.4
   Hct
   27.4
   23.5
   22.6
   30.3
   25.5
   Plt
   129
   118
   123
   79
   Cr
   0.5
   0.4
   0.4
   0.3
   0.3
   TCO2
   26
   25
   25
   Glucose
   158
   130
   183
   107
   83
   Other labs: PT / PTT / INR:16.7/26.4/1.5, ALT / AST:[**11-9**], Alk Phos / T
   Bili:56/0.8, Differential-Neuts:28.0 %, Band:0.0 %, Lymph:62.0 %,
   Mono:10.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL,
   LDH:149 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   Respiratory failure (upper airway obstruction), Sepsis
   RESPIRATORY FAILURE -- mutifactorial; urgent trach for upper airway
   obstruction and now evidence for interval development of pulmonary
   edema (cardiogenic from volume resussitation vs. non-cardiogenic,
   ARDS).  Plan continue mechanical ventilation, FiO2 to maintain SaO2
   >90% or pO2> 60 mmHg.  Hope to work towards weaning and trach collar.
   UPPER AIRWAY OBSTRUCTION -- unclear etiology, but concerns include
   laryngospasm, edema secondary to acid reflux, localized abscess, tumor
   (although no abnormalities identified at surgery).  CT suggests abscess
   or tumor.  Plan to maintain trach.
   SEPSIS -- sepsis physiology, unclear etiology.  Concerns include lung
   or new abscess (near trachea).  Continue early goal-directed therapy.
   Central venous access established.  Aim CVP >10
   FLUIDS --  continue resussitation with crystalloid and PRBC, may need
   central line to monitor CVP >10 cmH2O.
   ABD PAIN -- tender G-tube site improved.  Plan monitor serial exam,
   consider ABD CT.
   TACHYCARDIA -- sinus tachycardia; multifactorial including fever, pain,
   anxiety, sepsis, No evidence for pericardial disease.  Also, consider
   cardiomyopathy due to chronic tachycardia.
   NEUTROPENIA -- empirical antimicrobial coverage while febrile.
   FEVER -- improved.  Empirical antimicrobials.
   ANEMIA -- plan transfuse to >27.  Use irradiated PRBC.
   LLL lung density -- chronic; possible scarring, residual malignancy
   ESOPHOGEAL CA -- metastatic; Oncology to F/U, including discussion of
   direction of future care.  Family meeting today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2131-3-27**] 09:04 PM
   20 Gauge - [**2131-3-28**] 01:15 AM
   Arterial Line - [**2131-3-28**] 05:45 AM
   Multi Lumen - [**2131-3-28**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2131-03-31 05:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   40 yo with metastatic esophageal sq cell carcinoma p/w stridor & fever
   and found to have narrowed vocal cords with narrowed airway to 1-2mm.
   Taken urgently to OR for trach placement.
   24 Hour Events:
   [**2131-3-30**]
   -did poorly on pressure support
   -HCT 25 -> 28.2
   -ph 1.4 and was repleated
   -MAP WAS in 60s
   -started Tube feeds
   -Sedation weaned
   -If pt goes to floor should repeat SW consult there
   -Case Management pt may benefit from hospice and ultimate goal is to go
   home
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2131-3-30**] 08:10 PM
   Cefipime - [**2131-3-31**] 12:00 AM
   Clindamycin - [**2131-3-31**] 12:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2131-3-30**] 08:06 AM
   Fentanyl - [**2131-3-30**] 07:27 PM
   Heparin Sodium (Prophylaxis) - [**2131-3-30**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-3-31**] 05:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 104 (101 - 116) bpm
   BP: 93/49(67) {81/46(61) - 102/62(78)} mmHg
   RR: 21 (20 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58 kg (admission): 55.8 kg
   Height: 62 Inch
    CVP: 11 (7 - 254)mmHg
   Total In:
                                                                  4,818 mL
                                                                  2,525 mL
   PO:
   TF:
                                                                    160 mL
                                                                    128 mL
   IVF:
                                                                  4,208 mL
                                                                  2,397 mL
   Blood products:
   Total out:
                                                                  6,070 mL
                                                                  1,525 mL
   Urine:
                                                                  6,070 mL
                                                                  1,525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,252 mL
                                                                  1,000 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 158 (158 - 158) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 23.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/36/144/23/0
   Ve: 6.4 L/min
   PaO2 / FiO2: 480
   Physical Examination
   Gen: alert, awake, interactive
   Chest: tachycardic, normal s1/s2 no m/r/g, trach site healing well
   Lungs: CTAB anteriorly, mild tenderness over left lower rib anteriorly
   Abd: dressing over tube, soft, NTND, no HSM
   Extremities: no edema, DP pulse +2, radial pulse +2
   Labs / Radiology
   89 K/uL
   10.2 g/dL
   86 mg/dL
   0.3 mg/dL
   23 mEq/L
   3.8 mEq/L
   4 mg/dL
   105 mEq/L
   135 mEq/L
   28.3 %
   2.9 K/uL
        [image002.jpg]
                             [**2131-3-28**]  06:13 AM
                             [**2131-3-28**]  09:44 AM
                             [**2131-3-28**]  10:04 AM
                             [**2131-3-29**]  03:08 AM
                             [**2131-3-29**]  04:47 AM
                             [**2131-3-29**]  07:42 PM
                             [**2131-3-30**]  05:14 AM
                             [**2131-3-30**]  05:52 AM
                             [**2131-3-30**]  02:49 PM
                             [**2131-3-31**]  03:59 AM
   WBC
   0.6
   0.8
   1.4
   2.9
   Hct
   23.5
   22.6
   30.3
   25.5
   28.2
   28.3
   Plt
   118
   123
   79
   89
   Cr
   0.4
   0.4
   0.3
   0.3
   0.3
   0.3
   TCO2
   26
   25
   25
   Glucose
   130
   183
   107
   83
   82
   86
   Other labs: PT / PTT / INR:16.7/26.4/1.5, ALT / AST:[**11-9**], Alk Phos / T
   Bili:56/0.8, Differential-Neuts:28.0 %, Band:0.0 %, Lymph:62.0 %,
   Mono:10.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL,
   LDH:149 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   40 yo with metastatic esophageal sq cell carcinoma p/w stridor & fever
   and found to have narrowed vocal cords with narrowed airway to 1-2mm.
   Taken urgently to OR for trach placement with heliox prior.
   # Sepsis/neutropenic fever:  Patient stable, with CVL and A-Line in
   place.  MAP have been > 60s.  CVP often 7 requiring bolus but pt
   putting out a lot of urine.  Pt
s home BP is 80s-90s systolic so likely
   we are volume repleting her when she does not need it given how much
   urine she is putting out..  Unclear etiology of sepsis, as patient
s CX
   have shown NGTD.  Patient
s pan CT was unremakable in Abdomen/Pelvis
   for abcess, but patient with calcified CB.  CT neck did show a
   retropharyngeal developing phlegmon.  There is concern that this may
   develop into an abcess as patient
s graulocyte count increases.
   Patient will need further monitoring, and likely repeat CT neck in a
   few days.  On [**3-30**] pt no longer neutropenic with ANC up to 660 and WBC
   increased to 1.4.  On [**3-31**] ANC 1800.
   -new map goal > 55 (likely CVP goal 7) give volume based on new MAP
   goal and sx)
   -f/u cultures
   -d/c filgrastim
   -continue vanco & cefepime.  Clindamycin course completed today.
   .
   # Respiratory failure:  Patient with trach in place, has maintained
   good oxygen saturation.  Likely not ARDS.  ENT reevaluated airway and
   given lack of mobility of vocal cords, likely an infilration of cancer
   and thus would not benefit from steroids.  Patient will also need an
   enlarged trach at some point.  For now, given high PO2, can decrease
   FiO2 to 0.3, and treat patient
s Pneumonia with Vanc/Cefepime (got last
   dose of clinda today).   Did not tolerate PS on [**3-29**] or [**3-30**].
   - Continue Antibiotics vanc/cefepime (clindamycin done)
   - Continue fi02 at 30%, will ultimately transition to pressure support
   as patient has respiratory drive.
   -Trial of just trach collar today
   .
   # Anemia:  HCT stable.   Patient has was given 2u PRBCs on [**3-29**] and
   responded appropriately.
   - transfuse if < 25
   Metastatic esophageal cancer.
   -          Goal of care at this time is aggressive care of above but no
   more chemo
   -          Monitor pt for signs of depression
   Left flank/low back pain likely due to mets: continue lidocaine,
   methadone, tylenol
   Electrolytes: repleted mg, k, and phos
   ICU Care
   Nutrition: TF
   Fibersource HN (Full) - [**2131-3-31**] 04:15 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2131-3-27**] 09:04 PM
   Arterial Line - [**2131-3-28**] 05:45 AM
   Multi Lumen - [**2131-3-28**] 04:00 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: lantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2131-03-31 10:55:00 Physician Attending Progress Note
Chief Complaint: Respriatory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.
   Awake.  Off sedation.
   Interactive, communicative (via interpreter).
   Notes mild left chest wall discomfort/pain -
 reproduction with
   palpation.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2131-3-31**] 08:10 AM
   Clindamycin - [**2131-3-31**] 08:15 AM
   Vancomycin - [**2131-3-31**] 08:30 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2131-3-30**] 07:27 PM
   Heparin Sodium (Prophylaxis) - [**2131-3-30**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, Trach tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilator
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2131-3-31**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 89 (89 - 116) bpm
   BP: 95/50(68) {81/45(61) - 95/53(70)} mmHg
   RR: 20 (20 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 55.8 kg
   Height: 62 Inch
   CVP: 12 (7 - 12)mmHg
   Total In:
                                                                  4,818 mL
                                                                  6,142 mL
   PO:
   TF:
                                                                    160 mL
                                                                    283 mL
   IVF:
                                                                  4,208 mL
                                                                  5,798 mL
   Blood products:
   Total out:
                                                                  6,070 mL
                                                                  3,315 mL
   Urine:
                                                                  6,070 mL
                                                                  3,315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,252 mL
                                                                  2,827 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 158 (158 - 158) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35
   PIP: 17 cmH2O
   Plateau: 18 cmH2O
   Compliance: 23.1 cmH2O/mL
   SpO2: 100%
   ABG: ///23/
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Tracheotomy
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.2 g/dL
   89 K/uL
   86 mg/dL
   0.3 mg/dL
   23 mEq/L
   3.8 mEq/L
   4 mg/dL
   105 mEq/L
   135 mEq/L
   28.3 %
   2.9 K/uL
        [image002.jpg]
                             [**2131-3-28**]  06:13 AM
                             [**2131-3-28**]  09:44 AM
                             [**2131-3-28**]  10:04 AM
                             [**2131-3-29**]  03:08 AM
                             [**2131-3-29**]  04:47 AM
                             [**2131-3-29**]  07:42 PM
                             [**2131-3-30**]  05:14 AM
                             [**2131-3-30**]  05:52 AM
                             [**2131-3-30**]  02:49 PM
                             [**2131-3-31**]  03:59 AM
   WBC
   0.6
   0.8
   1.4
   2.9
   Hct
   23.5
   22.6
   30.3
   25.5
   28.2
   28.3
   Plt
   118
   123
   79
   89
   Cr
   0.4
   0.4
   0.3
   0.3
   0.3
   0.3
   TCO2
   26
   25
   25
   Glucose
   130
   183
   107
   83
   82
   86
   Other labs: PT / PTT / INR:16.7/26.4/1.5, ALT / AST:[**11-9**], Alk Phos / T
   Bili:56/0.8, Differential-Neuts:60.0 %, Band:4.0 %, Lymph:19.0 %,
   Mono:8.0 %, Eos:3.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL,
   LDH:149 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Respiratory failure (upper airway obstruction), Sepsis
   RESPIRATORY FAILURE -- mutifactorial; urgent trach for upper airway
   obstruction.  Pulmonary edema component resolved.  Plan continue
   mechanical ventilation, FiO2 to maintain SaO2 >90% or pO2> 60 mmHg.
   Hope to work towards weaning and trach collar.
   UPPER AIRWAY OBSTRUCTION -- unclear etiology, but concerns include
   laryngospasm, localized abscess, or tumor (although no abnormalities
   identified at surgery).  CT suggests abscess or tumor.  Plan to
   maintain trach.
   HYPOTENSION
 resolved.  Attributed to sepsis.  Goal for MAP >55 mmHg
   (relatively low at  baseline, and currently awake, intteractive
   appropriate, good urine output).
   SEPSIS
 resolved.  Concerns include lung or new abscess (near
   trachea).  Monitor vs.
   FLUIDS --  replete.  Now urine output similar to total input.  Would
   reduce iv fluids to maintenance.  Iv fluid bolus for hypotension.
   ABD PAIN -- tender G-tube site improved.  Plan monitor serial exam,
   consider ABD CT if progresses.
   CHEST WALL PAIN
 bone pain, focal, point, reproducible with
   palpation.  Suspect MS.  Monitor.
   TACHYCARDIA -- sinus tachycardia; multifactorial including fever, pain,
   anxiety, sepsis, No evidence for pericardial disease.  Also, consider
   cardiomyopathy due to chronic tachycardia.
   NEUTROPENIA -- empirical antimicrobial coverage while febrile.
   Neurtropenia resolved now 2 days.  d/c precautions.
   FEVER -- improved.  Empirical antimicrobials.
   ANEMIA -- plan transfuse to >27.  Use irradiated PRBC.
   LLL lung density -- chronic; possible scarring, residual malignancy
   ESOPHOGEAL CA -- metastatic; no further plans for treatment per
   Oncology.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2131-3-31**] 04:15 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2131-3-27**] 09:04 PM
   Arterial Line - [**2131-3-28**] 05:45 AM
   Multi Lumen - [**2131-3-28**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2131-04-01 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   40 yo with metastatic esophageal sq cell carcinoma p/w stridor & fever
   and found to have narrowed vocal cords with narrowed airway to 1-2mm.
   Taken urgently to OR for trach placement with heliox prior.
   24 Hour Events:
   Weaned to trach collar
   Stopped  filgrastim not neutrapenic anymore
   BPs remained stable w/o boluses
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Clindamycin - [**2131-3-31**] 08:15 AM
   Vancomycin - [**2131-3-31**] 07:30 PM
   Cefipime - [**2131-4-1**] 12:01 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-4-1**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 97 (89 - 106) bpm
   BP: 98/60(76) {82/47(62) - 125/71(91)} mmHg
   RR: 25 (20 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58 kg (admission): 55.8 kg
   Height: 62 Inch
    CVP: 6 (-21 - 12)mmHg
   Total In:
                                                                  6,947 mL
                                                                    211 mL
   PO:
   TF:
                                                                    610 mL
                                                                     92 mL
   IVF:
                                                                  6,158 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  7,305 mL
                                                                  1,600 mL
   Urine:
                                                                  7,305 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -358 mL
                                                                 -1,389 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.45/34/210/26/0
   Ve: 6.2 L/min
   PaO2 / FiO2: 525
   Physical Examination
   Gen: alert, awake, interactive
   Chest: tachycardic, normal s1/s2 no m/r/g, trach site healing well
   Lungs: CTAB anteriorly, mild tenderness over left lower rib anteriorly
   Abd: dressing over tube, soft, NTND, no HSM
   Extremities: no edema, DP pulse +2, radial pulse +2
   Labs / Radiology
   97 K/uL
   11.1 g/dL
   102 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.6 mEq/L
   4 mg/dL
   102 mEq/L
   137 mEq/L
   30.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2131-3-28**]  10:04 AM
                             [**2131-3-29**]  03:08 AM
                             [**2131-3-29**]  04:47 AM
                             [**2131-3-29**]  07:42 PM
                             [**2131-3-30**]  05:14 AM
                             [**2131-3-30**]  05:52 AM
                             [**2131-3-30**]  02:49 PM
                             [**2131-3-31**]  03:59 AM
                             [**2131-3-31**]  03:46 PM
                             [**2131-4-1**]  03:18 AM
   WBC
   0.8
   1.4
   2.9
   6.1
   Hct
   30.3
   25.5
   28.2
   28.3
   30.7
   Plt
   123
   79
   89
   97
   Cr
   0.4
   0.3
   0.3
   0.3
   0.3
   0.4
   TCO2
   26
   25
   25
   24
   Glucose
   183
   107
   83
   82
   86
   102
   Other labs: PT / PTT / INR:16.7/26.4/1.5, ALT / AST:[**11-9**], Alk Phos / T
   Bili:56/0.8, Differential-Neuts:60.0 %, Band:4.0 %, Lymph:19.0 %,
   Mono:8.0 %, Eos:3.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL,
   LDH:149 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   40 yo with metastatic esophageal sq cell carcinoma p/w stridor & fever
   and found to have narrowed vocal cords with narrowed airway to 1-2mm.
   Taken urgently to OR for trach placement with heliox prior.
   # Sepsis/neutropenic fever:  Patient stable, with CVL and A-Line in
   place.  MAP have been > 60s.  CVP often 7 requiring bolus but pt
   putting out a lot of urine.  Pt
s home BP is 80s-90s systolic so likely
   we are volume repleting her when she does not need it given how much
   urine she is putting out..  Unclear etiology of sepsis, as patient
s CX
   have shown NGTD.  Patient
s pan CT was unremakable in Abdomen/Pelvis
   for abcess, but patient with calcified CB.  CT neck did show a
   retropharyngeal developing phlegmon.  There is concern that this may
   develop into an abcess as patient
s graulocyte count increases.
   Patient will need further monitoring, and likely repeat CT neck in a
   few days.  On [**3-30**] pt no longer neutropenic with ANC up to 660 and WBC
   increased to 1.4.  On [**3-31**] ANC 1800.
   -new map goal > 55 (likely CVP goal 7) give volume based on new MAP
   goal and sx)
   -f/u cultures
   -d/c filgrastim
   -continue vanco & cefepime.  Clindamycin course completed today.
   .
   # Respiratory failure:  Patient with trach in place, has maintained
   good oxygen saturation.  Likely not ARDS.  ENT reevaluated airway and
   given lack of mobility of vocal cords, likely an infilration of cancer
   and thus would not benefit from steroids.  Patient will also need an
   enlarged trach at some point.  For now, given high PO2, can decrease
   FiO2 to 0.3, and treat patient
s Pneumonia with Vanc/Cefepime (got last
   dose of clinda today).   Did not tolerate PS on [**3-29**] or [**3-30**].
   - Continue Antibiotics vanc/cefepime (clindamycin done)
   - Continue fi02 at 30%, will ultimately transition to pressure support
   as patient has respiratory drive.
   -Trial of just trach collar today
   .
   # Anemia:  HCT stable.   Patient has was given 2u PRBCs on [**3-29**] and
   responded appropriately.
   - transfuse if < 25
   Metastatic esophageal cancer.
   -          Goal of care at this time is aggressive care of above but no
   more chemo
   -          Monitor pt for signs of depression
   Left flank/low back pain likely due to mets: continue lidocaine,
   methadone, tylenol
   Electrolytes: repleted mg, k, and phos
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2131-3-27**] 09:04 PM
   Arterial Line - [**2131-3-28**] 05:45 AM
   Multi Lumen - [**2131-3-28**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-04-01 12:09:00 Physician Attending Progress Note
Chief Complaint: Resp. failure (upper airway obstruction)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   On trach collar since yesterday afternoon.  No complainst.
   Up in chair.
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Clindamycin - [**2131-3-31**] 08:15 AM
   Cefipime - [**2131-4-1**] 08:00 AM
   Vancomycin - [**2131-4-1**] 08:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**12-29**] Minimal
   Pain location: Trach site
   Flowsheet Data as of  [**2131-4-1**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 104 (89 - 106) bpm
   BP: 118/70(88) {86/49(66) - 125/72(91)} mmHg
   RR: 24 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58 kg (admission): 55.8 kg
   Height: 62 Inch
   CVP: -20 (-21 - 8)mmHg
   Total In:
                                                                  6,947 mL
                                                                    694 mL
   PO:
   TF:
                                                                    610 mL
                                                                    149 mL
   IVF:
                                                                  6,158 mL
                                                                    405 mL
   Blood products:
   Total out:
                                                                  7,305 mL
                                                                  2,285 mL
   Urine:
                                                                  7,305 mL
                                                                  2,285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -358 mL
                                                                 -1,591 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   FiO2: 40%
   SpO2: 100%
   ABG: 7.45/34/210/26/0
   PaO2 / FiO2: 525
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, Hyperdynamic), (S1: Normal, No(t) Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.1 g/dL
   97 K/uL
   102 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.6 mEq/L
   4 mg/dL
   102 mEq/L
   137 mEq/L
   30.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2131-3-28**]  10:04 AM
                             [**2131-3-29**]  03:08 AM
                             [**2131-3-29**]  04:47 AM
                             [**2131-3-29**]  07:42 PM
                             [**2131-3-30**]  05:14 AM
                             [**2131-3-30**]  05:52 AM
                             [**2131-3-30**]  02:49 PM
                             [**2131-3-31**]  03:59 AM
                             [**2131-3-31**]  03:46 PM
                             [**2131-4-1**]  03:18 AM
   WBC
   0.8
   1.4
   2.9
   6.1
   Hct
   30.3
   25.5
   28.2
   28.3
   30.7
   Plt
   123
   79
   89
   97
   Cr
   0.4
   0.3
   0.3
   0.3
   0.3
   0.4
   TCO2
   26
   25
   25
   24
   Glucose
   183
   107
   83
   82
   86
   102
   Other labs: PT / PTT / INR:16.7/26.4/1.5, ALT / AST:[**11-9**], Alk Phos / T
   Bili:56/0.8, Differential-Neuts:61.0 %, Band:25.0 %, Lymph:8.0 %,
   Mono:4.0 %, Eos:1.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL,
   LDH:149 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Respiratory failure (upper airway obstruction), Sepsis
   RESPIRATORY FAILURE -- mutifactorial; urgent trach for upper airway
   obstruction.  Pulmonary edema component resolved.  Excllent progress to
   trach collar.  FiO2 to maintain SaO2 >90%.
   UPPER AIRWAY OBSTRUCTION -- unclear etiology, but concerns include
   laryngospasm, localized abscess, or tumor (although no abnormalities
   identified at surgery).  CT suggests abscess or tumor.  Plan to
   maintain trach.
   HYPOTENSION
 resolved.  Attributed to sepsis.  Goal for MAP >55 mmHg
   (relatively low at  baseline, and currently awake, intteractive
   appropriate, good urine output).
   SEPSIS
 resolved.  Concerns include lung or new abscess (near
   trachea).  Monitor VS.
   FLUIDS --  replete.  Now urine output similar to total input.  Would
   reduce iv fluids to maintenance.  Iv fluid bolus for hypotension.
   ABD PAIN -- tender G-tube site improved.  Plan monitor serial exam,
   consider ABD CT if progresses.
   CHEST WALL PAIN
 bone pain, focal, point, reproducible with
   palpation.  Suspect Musculo-Skeletal.  Monitor.  Review
   TACHYCARDIA -- sinus tachycardia; multifactorial including fever, pain,
   anxiety, sepsis, No evidence for pericardial disease.  Also, consider
   cardiomyopathy due to chronic tachycardia.
   NEUTROPENIA -- empirical antimicrobial coverage while febrile.
   Neurtropenia resolved now 2 days.  d/c precautions.
   FEVER -- improved.  Empirical antimicrobials.
   ANEMIA -- plan transfuse to >27.  Use irradiated PRBC.
   LLL lung density -- chronic; possible scarring, residual malignancy
   ESOPHOGEAL CA -- metastatic; no further plans for treatment per
   Oncology.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2131-3-31**] 03:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2131-3-27**] 09:04 PM
   Arterial Line - [**2131-3-28**] 05:45 AM
   Multi Lumen - [**2131-3-28**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Pt. is critically ill.

2131-04-02 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   40 yo with metastatic esophageal sq cell carcinoma p/w stridor & fever
   and found to have narrowed vocal cords with narrowed airway to 1-2mm.
   Taken urgently to OR for trach placement with heliox prior.
   24 Hour Events:
   - Stable on trach collar
   - d/c A-Line yesterday
   - PT/Sp and Sw consult
   - Omed aware of patien
   -Pt coughing a lot this AM but able to cover her trach and talk
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Clindamycin - [**2131-3-31**] 08:15 AM- Off now
   Vancomycin - [**2131-4-1**] 08:30 AM
   Cefipime - [**2131-4-2**] 12:13 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2131-4-2**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-4-2**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 100 (89 - 127) bpm
   BP: 84/51(59) {81/51(59) - 101/78(83)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58 kg (admission): 55.8 kg
   Height: 62 Inch
    CVP: -20 (-21 - 8)mmHg
   Total In:
                                                                  1,488 mL
                                                                    476 mL
   PO:
   TF:
                                                                    723 mL
                                                                    386 mL
   IVF:
                                                                    535 mL
                                                                     90 mL
   Blood products:
   Total out:
                                                                  3,365 mL
                                                                    790 mL
   Urine:
                                                                  3,365 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,877 mL
                                                                   -314 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Gen: Alert, awake, NAD
   Cardiac: tachycardic, no m/r/g, nl s1/s2
   Pulm: CTAB anteriorly
   Abd: + bs, soft, NTND
   Extremities: no UE or LE edma, right hand colder than left but radial
   pulse [**12-29**]+ bilaterally
   Labs / Radiology
   118 K/uL
   11.3 g/dL
   135 mg/dL
   0.4 mg/dL
   29 mEq/L
   3.5 mEq/L
   7 mg/dL
   98 mEq/L
   134 mEq/L
   32.4 %
   8.3 K/uL
        [image002.jpg] ca [**31**] mg 2 ph 2.2   Blood cx NGTD, Ucx-neg
                             [**2131-3-29**]  03:08 AM
                             [**2131-3-29**]  04:47 AM
                             [**2131-3-29**]  07:42 PM
                             [**2131-3-30**]  05:14 AM
                             [**2131-3-30**]  05:52 AM
                             [**2131-3-30**]  02:49 PM
                             [**2131-3-31**]  03:59 AM
                             [**2131-3-31**]  03:46 PM
                             [**2131-4-1**]  03:18 AM
                             [**2131-4-2**]  03:23 AM
   WBC
   0.8
   1.4
   2.9
   6.1
   8.3
   Hct
   30.3
   25.5
   28.2
   28.3
   30.7
   32.4
   Plt
   123
   79
   89
   97
   118
   Cr
   0.4
   0.3
   0.3
   0.3
   0.3
   0.4
   0.4
   TCO2
   25
   25
   24
   Glucose
   183
   107
   83
   82
   86
   102
   135
   Other labs: PT / PTT / INR:16.7/26.4/1.5, ALT / AST:[**11-9**], Alk Phos / T
   Bili:56/0.8, Differential-Neuts:61.0 %, Band:25.0 %, Lymph:8.0 %,
   Mono:4.0 %, Eos:1.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL,
   LDH:149 IU/L, Ca++:10.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   40 yo with metastatic esophageal sq cell carcinoma p/w stridor & fever
   and found to have narrowed vocal cords with narrowed airway to 1-2mm.
   Taken urgently to OR for trach placement with heliox prior.
   # Sepsis/neutropenic fever:  Resolved.  Patient off pressors > 72 hrs
   and has been doing well.    Likely pulmonary source.  CXR shows no
   progression in disease.
   -Continue Vanc/Cefepime for full 10 day course (ending [**4-9**]).  Pt
   last dose of clindamycin  was [**2131-3-31**] (had 6 doses total)
   -Pt baseline BP 80s-90s and thus does not need IVF boluses for this
   .
   # Respiratory failure:  Stable on trach mask.   Had coughing but was
   able to cover trach to talk this AM.  Patient with tumor infilration of
   vocal cords.  Plan is for no more chemo.  Her trach is size 6 b
c it
   was placed emergently.  Spoke with family and decision made not to
   [**Last Name (un) **] to larger trach b/c she likely would not be able to talk with
   it.
   - wean oxygen as tolerated
   .
   # Anemia:  HCT stable.   Patient has was given 2u PRBCs on [**3-29**] and
   responded appropriately.  Since then HCT has been stable.  Her
   transfusion goal is >25.
   Metastatic esophageal cancer.
   -          Goal of care at this time is aggressive care of above but no
   more chemo
   -          Monitor pt for signs of depression
   Left flank/low back pain likely due to mets: continue lidocaine,
   methadone, tylenol
   FEN: replete lytes this AM (potassium)
   Dispo: Call out to OMED
   ICU Care
   Nutrition: TF
   Fibersource HN (Full) - [**2131-4-2**] 12:05 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2131-3-27**] 09:04 PM
   Multi Lumen - [**2131-3-28**] 04:00 PM
   Prophylaxis:
   DVT: her sc
   Stress ulcer: lantoprasole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-04-02 11:45:00 Physician Attending Progress Note
Chief Complaint: Resp failure/upper airway obstruction
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains on trach collar > 48 hrs.
   Offers no new complaints.
   History obtained from [**Hospital 1330**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Clindamycin - [**2131-3-31**] 08:15 AM
   Cefipime - [**2131-4-2**] 07:45 AM
   Vancomycin - [**2131-4-2**] 09:08 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2131-4-2**] 04:20 AM
   Heparin Sodium (Prophylaxis) - [**2131-4-2**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, Trach
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2131-4-2**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 119 (100 - 127) bpm
   BP: 86/60(66) {81/51(59) - 101/78(83)} mmHg
   RR: 25 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58 kg (admission): 55.8 kg
   Height: 62 Inch
   CVP: -20 (-21 - -20)mmHg
   Total In:
                                                                  1,488 mL
                                                                  1,273 mL
   PO:
   TF:
                                                                    723 mL
                                                                    693 mL
   IVF:
                                                                    535 mL
                                                                    340 mL
   Blood products:
   Total out:
                                                                  3,365 mL
                                                                  1,495 mL
   Urine:
                                                                  3,365 mL
                                                                  1,495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,877 mL
                                                                   -222 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.3 g/dL
   118 K/uL
   135 mg/dL
   0.4 mg/dL
   29 mEq/L
   3.5 mEq/L
   7 mg/dL
   98 mEq/L
   134 mEq/L
   32.4 %
   8.3 K/uL
        [image002.jpg]
                             [**2131-3-29**]  03:08 AM
                             [**2131-3-29**]  04:47 AM
                             [**2131-3-29**]  07:42 PM
                             [**2131-3-30**]  05:14 AM
                             [**2131-3-30**]  05:52 AM
                             [**2131-3-30**]  02:49 PM
                             [**2131-3-31**]  03:59 AM
                             [**2131-3-31**]  03:46 PM
                             [**2131-4-1**]  03:18 AM
                             [**2131-4-2**]  03:23 AM
   WBC
   0.8
   1.4
   2.9
   6.1
   8.3
   Hct
   30.3
   25.5
   28.2
   28.3
   30.7
   32.4
   Plt
   123
   79
   89
   97
   118
   Cr
   0.4
   0.3
   0.3
   0.3
   0.3
   0.4
   0.4
   TCO2
   25
   25
   24
   Glucose
   183
   107
   83
   82
   86
   102
   135
   Other labs: PT / PTT / INR:16.7/26.4/1.5, ALT / AST:[**11-9**], Alk Phos / T
   Bili:56/0.8, Differential-Neuts:61.0 %, Band:25.0 %, Lymph:8.0 %,
   Mono:4.0 %, Eos:1.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL,
   LDH:149 IU/L, Ca++:10.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Respiratory failure (upper airway obstruction), s/p Sepsis
   RESPIRATORY FAILURE -- mutifactorial; urgent trach for upper airway
   obstruction.  Pulmonary edema component resolved.  Excellent progress
   to trach collar.  FiO2 to maintain SaO2 >90%.
   UPPER AIRWAY OBSTRUCTION -- unclear etiology, but concerns include
   laryngospasm, localized abscess, or tumor (although no abnormalities
   identified at surgery).  CT suggests abscess or tumor.  Plan to
   maintain trach.  Will need re-imaging.
   TACHYCARDIA -- sinus tachycardia; multifactorial including fever, pain,
   anxiety, sepsis, No evidence for pericardial disease.  Also, consider
   cardiomyopathy due to chronic tachycardia.
   HYPOTENSION
 resolved.  Attributed to sepsis.  Goal for MAP >55 mmHg
   (relatively low at  baseline, and currently awake, intteractive
   appropriate, good urine output).
   SEPSIS
 resolved.  Concerns include lung or new abscess (near
   trachea).  Monitor VS.
   FLUIDS --  replete.  Now urine output similar to total input.  Would
   reduce iv fluids to maintenance.  Iv fluid bolus for hypotension.
   ABD PAIN -- tender G-tube site improved.  Plan monitor serial exam,
   consider ABD CT if progresses.
   CHEST WALL PAIN
 bone pain, focal, point, reproducible with
   palpation.  Suspect Musculo-Skeletal.  Monitor.  Review
   NEUTROPENIA -- empirical antimicrobial coverage while febrile.
   Neurtropenia resolved now 2 days.  d/c precautions.
   FEVER -- improved.  Empirical antimicrobials.
   ANEMIA -- plan transfuse to >27.  Use irradiated PRBC.
   LLL lung density -- chronic; possible scarring, residual malignancy
   ESOPHOGEAL CA -- metastatic; no further plans for treatment per
   Oncology.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2131-4-2**] 03:43 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2131-3-27**] 09:04 PM
   Multi Lumen - [**2131-3-28**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill

2131-04-03 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: s/p Trach placment for Upper respiratory distress, now
   resolved, on trach mask.
   24 Hour Events:
   -stable on trach collar
   -advanced to ice chips
   -family decided to stay with small trach
   -hospice can take the patient back with trach
   -d/c foley
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Clindamycin - [**2131-3-31**] 08:15 AM
   Cefipime - [**2131-4-2**] 03:50 PM
   Vancomycin - [**2131-4-2**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-4-2**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-4-3**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 125 (105 - 129) bpm
   BP: 93/61(69) {83/54(60) - 111/66(74)} mmHg
   RR: 33 (19 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58 kg (admission): 55.8 kg
   Height: 62 Inch
                  Total In:
                                                                  3,117 mL
                                                                    805 mL
   PO:
                  TF:
                                                                  2,137 mL
                                                                    805 mL
   IVF:
                                                                    590 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    400 mL
   Urine:
                                                                  1,960 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,157 mL
                                                                    405 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Gen: Alert, awake, NAD
   Cardiac: tachycardic, no m/r/g, nl s1/s2
   Pulm: CTAB anteriorly
   Abd: + bs, soft, NTND
   Extremities: no UE or LE edma, right hand colder than left but radial
   pulse [**12-29**]+ bilaterally
   Labs / Radiology
   187 K/uL
   12.0 g/dL
   115 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   12 mg/dL
   99 mEq/L
   134 mEq/L
   34.6 %
   10.2 K/uL
        [image002.jpg]
                             [**2131-3-29**]  04:47 AM
                             [**2131-3-29**]  07:42 PM
                             [**2131-3-30**]  05:14 AM
                             [**2131-3-30**]  05:52 AM
                             [**2131-3-30**]  02:49 PM
                             [**2131-3-31**]  03:59 AM
                             [**2131-3-31**]  03:46 PM
                             [**2131-4-1**]  03:18 AM
                             [**2131-4-2**]  03:23 AM
                             [**2131-4-3**]  03:59 AM
   WBC
   1.4
   2.9
   6.1
   8.3
   10.2
   Hct
   25.5
   28.2
   28.3
   30.7
   32.4
   34.6
   Plt
   79
   89
   97
   118
   187
   Cr
   0.3
   0.3
   0.3
   0.3
   0.4
   0.4
   0.5
   TCO2
   25
   25
   24
   Glucose
   107
   83
   82
   86
   102
   135
   115
   Other labs: PT / PTT / INR:16.7/26.4/1.5, ALT / AST:[**11-9**], Alk Phos / T
   Bili:56/0.8, Differential-Neuts:60.0 %, Band:13.0 %, Lymph:13.0 %,
   Mono:11.0 %, Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL,
   LDH:149 IU/L, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   40 yo with metastatic esophageal sq cell carcinoma p/w stridor & fever
   and found to have narrowed vocal cords with narrowed airway to 1-2mm.
   Taken urgently to OR for trach placement with heliox prior.
   # Sepsis/neutropenic fever:  Resolved.  Patient off pressors > 72 hrs
   and has been doing well.    Likely pulmonary source.  CXR shows no
   progression in disease.
   -Continue Vanc/Cefepime for full 10 day course (ending [**4-9**]).  Pt
   last dose of clindamycin  was [**2131-3-31**] (had 6 doses total)
   -Pt baseline BP 80s-90s and thus does not need IVF boluses for this
   .
   # Respiratory failure:  Stable on trach mask.   Had coughing but was
   able to cover trach to talk this AM.  Patient with tumor infilration of
   vocal cords.  Plan is for no more chemo.  Her trach is size 6 b
c it
   was placed emergently.  Spoke with family and decision made not to
   [**Last Name (un) **] to larger trach b/c she likely would not be able to talk with
   it.
   - wean oxygen as tolerated
   .
   # Anemia:  HCT stable.   Patient has was given 2units PRBCs on [**3-29**] and
   responded appropriately.  Since then HCT has been stable.  Her
   transfusion goal is >25.
   # Metastatic esophageal cancer.
   -          Goal of care at this time is aggressive care of above but no
   more chemo
   -          Monitor pt for signs of depression
   Left flank/low back pain likely due to mets: continue lidocaine,
   methadone, tylenol
   FEN: replete lytes this AM (potassium)
   Dispo: Call out to OMED
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2131-4-3**] 03:05 AM [**Telephone/Fax (5) 6821**] mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2131-3-27**] 09:04 PM
   Multi Lumen - [**2131-3-28**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-04-03 12:11:00 Physician Attending Progress Note
Chief Complaint: Upper airway obstruction
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains on trach collar.
   Exerienced mild relateive hypotension during sleep.  Resolved.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2131-4-2**] 09:00 PM
   Cefipime - [**2131-4-3**] 08:21 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-4-3**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2131-4-3**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 120 (112 - 129) bpm
   BP: 89/69(74) {83/46(55) - 111/74(78)} mmHg
   RR: 22 (19 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58 kg (admission): 55.8 kg
   Height: 62 Inch
             Total In:
                                                                  3,099 mL
                                                                  1,269 mL
   PO:
             TF:
                                                                  2,119 mL
                                                                  1,159 mL
   IVF:
                                                                    590 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    400 mL
   Urine:
                                                                  1,960 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,139 mL
                                                                    869 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Trach tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   12.0 g/dL
   187 K/uL
   115 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   12 mg/dL
   99 mEq/L
   134 mEq/L
   34.6 %
   10.2 K/uL
        [image002.jpg]
                             [**2131-3-29**]  04:47 AM
                             [**2131-3-29**]  07:42 PM
                             [**2131-3-30**]  05:14 AM
                             [**2131-3-30**]  05:52 AM
                             [**2131-3-30**]  02:49 PM
                             [**2131-3-31**]  03:59 AM
                             [**2131-3-31**]  03:46 PM
                             [**2131-4-1**]  03:18 AM
                             [**2131-4-2**]  03:23 AM
                             [**2131-4-3**]  03:59 AM
   WBC
   1.4
   2.9
   6.1
   8.3
   10.2
   Hct
   25.5
   28.2
   28.3
   30.7
   32.4
   34.6
   Plt
   79
   89
   97
   118
   187
   Cr
   0.3
   0.3
   0.3
   0.3
   0.4
   0.4
   0.5
   TCO2
   25
   25
   24
   Glucose
   107
   83
   82
   86
   102
   135
   115
   Other labs: PT / PTT / INR:16.7/26.4/1.5, ALT / AST:[**11-9**], Alk Phos / T
   Bili:56/0.8, Differential-Neuts:60.0 %, Band:13.0 %, Lymph:13.0 %,
   Mono:11.0 %, Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL,
   LDH:149 IU/L, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Respiratory failure (upper airway obstruction), s/p Sepsis
   RESPIRATORY FAILURE -- mutifactorial; urgent trach for upper airway
   obstruction.  Pulmonary edema component resolved.  Excellent progress
   to trach collar.  FiO2 to maintain SaO2 >90%.
   UPPER AIRWAY OBSTRUCTION -- unclear etiology, but concerns include
   laryngospasm, localized abscess, or tumor (although no abnormalities
   identified at surgery).  CT suggests abscess or tumor.  Plan to
   maintain trach.  Will need re-imaging.
   TACHYCARDIA -- sinus tachycardia; multifactorial including fever, pain,
   anxiety, sepsis, No evidence for pericardial disease.  Also, consider
   cardiomyopathy due to chronic tachycardia.
   HYPOTENSION
 resolved.  Attributed to sepsis.  Goal for MAP >55 mmHg
   (relatively low at  baseline, and currently awake, intteractive
   appropriate, good urine output).
   SEPSIS
 resolved.  Concerns include lung or new abscess (near
   trachea).  Monitor VS.
   FLUIDS --  replete.  Now urine output similar to total input.  Would
   reduce iv fluids to maintenance.  Iv fluid bolus for hypotension.
   ABD PAIN -- tender G-tube site improved.  Plan monitor serial exam,
   consider ABD CT if progresses.
   CHEST WALL PAIN
 bone pain, focal, point, reproducible with
   palpation.  Suspect Musculo-Skeletal.  Monitor.  Review
   NEUTROPENIA -- empirical antimicrobial coverage while febrile.
   Neurtropenia resolved now 2 days.  d/c precautions.
   FEVER -- improved.  Empirical antimicrobials.
   ANEMIA -- plan transfuse to >27.  Use irradiated PRBC.
   LLL lung density -- chronic; possible scarring, residual malignancy
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2131-4-3**] 09:36 AM [**Telephone/Fax (5) 6829**] mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2131-3-27**] 09:04 PM
   Multi Lumen - [**2131-3-28**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill

2131-04-04 06:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   s/p Trach placment for Upper respiratory distress, now resolved, on
   trach mask.
   24 Hour Events:
   Called out to BMT but no bed
   Got a PICC
   Blood glucose 191
   Ambulating around [**Hospital1 **] w/ assistance
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2131-4-3**] 08:20 PM
   Cefipime - [**2131-4-3**] 11:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-4-3**] 09:33 PM
   Morphine Sulfate - [**2131-4-3**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   + mild pain over left lateral lung (pt points to this area)
   Flowsheet Data as of  [**2131-4-4**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 105 (100 - 128) bpm
   BP: 99/62(70) {85/46(55) - 108/74(78)} mmHg
   RR: 25 (20 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58 kg (admission): 55.8 kg
   Height: 62 Inch
                  Total In:
                                                                  3,364 mL
                                                                    199 mL
   PO:
                  TF:
                                                                  2,669 mL
                                                                    199 mL
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    400 mL
   Urine:
                                                                    800 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,564 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///32/
   Physical Examination
   Gen: Alert, awake, trach collar is irritating her
   Cardiac: tachycardic, no m/r/g, nl s1/s2
   Pulm: CTAB anteriorly, mild [**Hospital1 **]-baslilar crackes.
   Abd: + bs, soft, NTND
   Extremities: no c/c/e
   Labs / Radiology
   190 K/uL
   10.9 g/dL
   191 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.2 mEq/L
   15 mg/dL
   98 mEq/L
   135 mEq/L
   31.2 %
   9.2 K/uL
        [image002.jpg]
                             [**2131-3-29**]  07:42 PM
                             [**2131-3-30**]  05:14 AM
                             [**2131-3-30**]  05:52 AM
                             [**2131-3-30**]  02:49 PM
                             [**2131-3-31**]  03:59 AM
                             [**2131-3-31**]  03:46 PM
                             [**2131-4-1**]  03:18 AM
                             [**2131-4-2**]  03:23 AM
                             [**2131-4-3**]  03:59 AM
                             [**2131-4-4**]  02:02 AM
   WBC
   1.4
   2.9
   6.1
   8.3
   10.2
   9.2
   Hct
   25.5
   28.2
   28.3
   30.7
   32.4
   34.6
   31.2
   Plt
   79
   89
   97
   118
   187
   190
   Cr
   0.3
   0.3
   0.3
   0.3
   0.4
   0.4
   0.5
   0.4
   TCO2
   25
   24
   Glucose
   107
   83
   82
   86
   102
   135
   115
   191
   Other labs: PT / PTT / INR:16.7/26.4/1.5, ALT / AST:[**11-9**], Alk Phos / T
   Bili:56/0.8, Differential-Neuts:60.0 %, Band:13.0 %, Lymph:13.0 %,
   Mono:11.0 %, Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL,
   LDH:149 IU/L, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   40 yo with metastatic esophageal sq cell carcinoma p/w stridor & fever
   and found to have narrowed vocal cords with narrowed airway to 1-2mm.
   Taken urgently to OR for trach placement with heliox prior.
   # Sepsis/neutropenic fever:  Resolved.  Likely pulmonary source.  CXR
   shows no progression in disease.
   -Continue Vanc/Cefepime for full 10 day course (ending [**4-9**]).  Pt
   last dose of clindamycin  was [**2131-3-31**] (had 6 doses total).
   -Pt baseline BP 80s-90s and thus does not need IVF boluses for this
   .
   # Respiratory failure:  Stable on trach mask.    Patient with tumor
   infilration of vocal cords and won
t benefit from steroids.  Plan is
   for no more chemo.  Her trach is size 6 b
c it was placed emergently.
   Spoke with family and decision made not to convert to larger trach b/c
   she likely would not be able to talk with it.  Did okay with the passe
   muir valve today.  Pt also reporting mild pain  over left lateral lungs
   (mets to this area previously documented).
   - on lowest fi02 of humidified oxygen available in hospital
   .
   # Sinus Tachycardia: in 110s.   Likely secondary to tumor involvement
   of vagus nerve.
   - Monitor
   .
   # Anemia:  HCT stable.   Patient has was given 2units PRBCs on [**3-29**] and
   responded appropriately. HCT today is 31.2.  Her transfusion goal is
   >25.
   # Metastatic esophageal cancer.
   -          Goal of care at this time is aggressive care of above but no
   more chemo
   -          Monitor pt for signs of depression
   # Left flank/low back pain likely due to mets: continue lidocaine,
   methadone, tylenol
   # FEN: replete phos.
   # Dispo:
   -Call out to OMED
   -Home with hospice.  Pt currently on a [**Hospital1 7**] and TID IV antibiotics.
   -Would benefit from VNA
   -SW may need to be reconsulted on the floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2131-3-27**] 09:04 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer:  lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-04-04 11:56:00 Physician Attending Progress Note
Chief Complaint: upper airway obstruction
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains with trach, now with capped.
   Ambulating in MICU with physical therapy.
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2131-4-3**] 08:20 PM
   Cefipime - [**2131-4-4**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2131-4-3**] 11:30 PM
   Heparin Sodium (Prophylaxis) - [**2131-4-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**12-29**] Minimal
   Pain location: left chest pain
   Flowsheet Data as of  [**2131-4-4**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 123 (100 - 128) bpm
   BP: 91/58(64) {85/53(62) - 108/70(75)} mmHg
   RR: 18 (18 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58 kg (admission): 55.8 kg
   Height: 62 Inch
             Total In:
                                                                  3,364 mL
                                                                  1,661 mL
   PO:
             TF:
                                                                  2,669 mL
                                                                  1,381 mL
   IVF:
                                                                    350 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    750 mL
   Urine:
                                                                    800 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,564 mL
                                                                    911 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Trach tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.9 g/dL
   190 K/uL
   191 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.2 mEq/L
   15 mg/dL
   98 mEq/L
   135 mEq/L
   31.2 %
   9.2 K/uL
        [image002.jpg]
                             [**2131-3-29**]  07:42 PM
                             [**2131-3-30**]  05:14 AM
                             [**2131-3-30**]  05:52 AM
                             [**2131-3-30**]  02:49 PM
                             [**2131-3-31**]  03:59 AM
                             [**2131-3-31**]  03:46 PM
                             [**2131-4-1**]  03:18 AM
                             [**2131-4-2**]  03:23 AM
                             [**2131-4-3**]  03:59 AM
                             [**2131-4-4**]  02:02 AM
   WBC
   1.4
   2.9
   6.1
   8.3
   10.2
   9.2
   Hct
   25.5
   28.2
   28.3
   30.7
   32.4
   34.6
   31.2
   Plt
   79
   89
   97
   118
   187
   190
   Cr
   0.3
   0.3
   0.3
   0.3
   0.4
   0.4
   0.5
   0.4
   TCO2
   25
   24
   Glucose
   107
   83
   82
   86
   102
   135
   115
   191
   Other labs: PT / PTT / INR:16.7/26.4/1.5, ALT / AST:[**11-9**], Alk Phos / T
   Bili:56/0.8, Differential-Neuts:60.0 %, Band:13.0 %, Lymph:13.0 %,
   Mono:11.0 %, Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL,
   LDH:149 IU/L, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Respiratory failure (upper airway obstruction), s/p Sepsis
   RESPIRATORY FAILURE -- mutifactorial; urgent trach for upper airway
   obstruction.  Pulmonary edema component resolved.  Excellent progress
   to trach collar
 now capped.  FiO2 to maintain SaO2 >90%.
   UPPER AIRWAY OBSTRUCTION -- unclear etiology, but concerns include
   laryngospasm, localized abscess, or tumor (although no abnormalities
   identified at surgery).  CT suggests abscess or tumor.  Plan to
   maintain trach.  Will need re-imaging.
   TACHYCARDIA -- sinus tachycardia; multifactorial including fever, pain,
   anxiety, sepsis, No evidence for pericardial disease.  Also, consider
   cardiomyopathy due to chronic tachycardia.
   HYPOTENSION
 resolved.  Attributed to sepsis.  Goal for MAP >55 mmHg
   (relatively low at  baseline, and currently awake, intteractive
   appropriate, good urine output).
   SEPSIS
 resolved.  Concerns include lung or new abscess (near
   trachea).  Monitor VS.
   FLUIDS --  replete.  Now urine output similar to total input.  Would
   reduce iv fluids to maintenance.  Iv fluid bolus for hypotension.
   ABD PAIN -- tender G-tube site improved.  Plan monitor serial exam,
   consider ABD CT if progresses.
   CHEST WALL PAIN
 bone pain, focal, point, reproducible with
   palpation.  Suspect Musculo-Skeletal.  Monitor.  Review
   NEUTROPENIA -- empirical antimicrobial coverage while febrile.
   Neurtropenia resolved now 2 days.  d/c precautions.
   FEVER -- improved.  Empirical antimicrobials.
   ANEMIA -- plan transfuse to >27.  Use irradiated PRBC.
   LLL lung density -- chronic; possible scarring, residual malignancy
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2131-4-4**] 01:42 AM [**Telephone/Fax (5) 6829**] mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2131-3-27**] 09:04 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill